US04382939
3-[2-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]-benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 38 from 1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (2.0 g, 0.007 moles) and dimethylamine (5 g, 0.111 moles). Recrystallization from ethanol gave the product (1.2 g) as the dihydrochloride 10:7 hydrate, mp 224° C. (dec.).

reactant | 1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.007 moles, 2.0 g | CC1=CC2=C(C=C1)C1=C(CN(CC1)CC(C)=O)C(O2)=O | C16H17NO3
reactant | dimethylamine | 0.111 moles, 5 g | CNC | C2H7N
product | 3-[2-(Dimethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]-benzopyrano[3,4-c]pyridin-5-one | 1.2 g | CN(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)C)C)C | C18H24N2O2
